US09079919B2
(R)-5′,5′-difluoro-6-(pyrimidin-5-yl)-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine
In a manner analogous to that described in Example 19, the cross coupling reaction of (R)-6-bromo-5′,5′-difluoro-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine (intermediate B6.1) with pyrimidin-5-ylboronic acid yielded the title compound (55% yield) as a pale yellow solid. MS (ISP): m/z=333.1 [M+H]+.

reactant | (R)-6-bromo-5′,5′-difluoro-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine | BrC=1C=C2C(=CC1)OCC[C@@]21N=C(OCC1(F)F)N | C12H11BrF2N2O2
reactant | pyrimidin-5-ylboronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | (R)-5′,5′-difluoro-6-(pyrimidin-5-yl)-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine | 55% yield | FC1([C@@]2(N=C(OC1)N)CCOC1=CC=C(C=C12)C=1C=NC=NC1)F | C16H14F2N4O2
